US07262212B2
1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene (2.2 g, 7.72 mmol) was dissolved in methanol (20 ml), to which 40% methylamine methanol solution (20 ml) was added, and the mixture was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in methylene chloride, and the mixture was washed with saturated sodium hydrogencarbonate aqueous solution. The organic layer was dried over magnesium sulfate, and filtered, and the filtrate was concentrated under reduced pressure to afford N-methyl-N-[2-(4-trifluoromethoxyphenoxy)ethyl]amine (1.44 g, yield 79%) as a pale yellow oil.

reactant | 1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene | 7.72 mmol, 2.2 g | BrCCOC1=CC=C(C=C1)OC(F)(F)F | C9H8BrF3O2
reactant | methylamine methanol | 20 ml | CO.CN
solvent | methanol | 20 ml | CO | CH4O
product | N-methyl-N-[2-(4-trifluoromethoxyphenoxy)ethyl]amine | 1.44 g, yield 79% | CNCCOC1=CC=C(C=C1)OC(F)(F)F | C10H12F3NO2
